US08138174B2
To a magnetically stirred solution of 4-[4-(5-fluoro-1H-indol-3-yl)-4-oxobutyl]-piperazine-1-carboxylic acid tert-butyl ester (3.85 g, 9.88 mmol) in dichloromethane was added hydrochloric acid (dissolved in dioxane: 4.94 ml, 4M solution, 19.8 mmol HCl) and the resulting mixture was reacted at room temperature for 4 hours. The reaction mixture was thoroughly concentrated in vacuo to give 1-(5-fluoro-1H-indol-3-yl)-4-(piperazin-1-yl)butan-1-one dihydrochloride (3.20 g). Some characteristic 1H-NMR signals from 1-(5-fluoro-1H-indol-3-yl)-4-(piperazin-1-yl)butan-1-one dihydrochloride are: (400 MHz, DMSO-d6) δ 2.07 (quintet, J=7, 2H), 3.03 (t, J=7, 2H), 7.08 (dt, J˜9 and 3, 1H), 7.50 (dd, J˜9 and 4, 1H), 7.85 (dd, j˜9 and 3, 1H), 8.43 (d, J˜3, 1H), 12.21 (br s, 1H).

reactant | 4-[4-(5-fluoro-1H-indol-3-yl)-4-oxobutyl]-piperazine-1-carboxylic acid tert-butyl ester | 9.88 mmol, 3.85 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCC(=O)C1=CNC2=CC=C(C=C12)F | C21H28FN3O3
reactant | hydrochloric acid | 19.8 mmol, 4M, 4.94 ml | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(5-fluoro-1H-indol-3-yl)-4-(piperazin-1-yl)butan-1-one dihydrochloride | 3.20 g | Cl.Cl.FC=1C=C2C(=CNC2=CC1)C(CCCN1CCNCC1)=O | InChI=1S/C16H20FN3O.2ClH/c17-12-3-4-15-13(10-12)14(11-19-15)16(21)2-1-7-20-8-5-18-6-9-20;;/h3-4,10-11,18-19H,1-2,5-9H2;2*1H
